US08729105B2
Preparation of 4-(3,4-dichlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-5-(2,2,2-trifluoroethoxy)pyrimidine-2-carboxamide
The title compound was synthesized in analogy to Example 1, using 4-(3,4-dichloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine-2-carboxylic acid (example AA) and 3-methoxy-5-isoxazolemethanamine hydrochloride as starting materials, 477.0 (M+H)+.

reactant | 4-(3,4-dichloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrimidine-2-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=NC(=NC=C1OCC(F)(F)F)C(=O)O | C13H7Cl2F3N2O3
reactant | 3-methoxy-5-isoxazolemethanamine hydrochloride | Cl.COC1=NOC(=C1)CN
product | 4-(3,4-dichlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-5-(2,2,2-trifluoroethoxy)pyrimidine-2-carboxamide | ClC=1C=C(C=CC1Cl)C1=NC(=NC=C1OCC(F)(F)F)C(=O)NCC1=CC(=NO1)OC | C18H13Cl2F3N4O4
